US04046907
1-Nitro-2-methylamino-2-[2-(2-thiazolylmethylthio)ethylamino]-ethylene
Reaction of 1-nitro-2-methylthio-2-[2-(2-thiazolylmethylthio)ethylamino]ethylene with methylamine according to the process of Example 8(ii) yielded the title compound, m.p. 103°-104°. (from ethanol ether). (Found: C, 39.4; H, 5.2; N, 20.2% C9H14N4O2S2 requires: C, 39.4; H, 5.1; N, 20.4%).

reactant | 1-nitro-2-methylthio-2-[2-(2-thiazolylmethylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC=1SC=CN1)SC | C9H13N3O2S3
reactant | methylamine | CN | CH5N
product | 1-Nitro-2-methylamino-2-[2-(2-thiazolylmethylthio)ethylamino]-ethylene | [N+](=O)([O-])C=C(NCCSCC=1SC=CN1)NC | C9H14N4O2S2
